US05958924
4.6. 6-fluoro-1-methyl-4-[2-[4-(thieno[3,2-c]pyridine-4-yl)-1-piperazinyl]ethyl]-2(1H)-quinolone hydrochloride (2:1)
1.4 g (5.8 mmol) of 4-(2-chloroethyl)-6-fluoro-1-methyl-2(1H)-quinolone are added to a mixture of 1.3 g (5.9 mmol) of 4-(1-piperazinyl)thieno[3,2-c]pyridine and 0.50 g (5.95 mmol) of sodium hydrogen carbonate in 20 ml of acetonitrile, and the reaction medium is heated to 55-60° C. for 18 hours. The solvent is evaporated off and the residue is taken up in 100 ml of dichloromethane. It is washed with saturated aqueous sodium bicarbonate solution and then with water. The organic phase is dried over sodium sulphate and filtered and the filtrate is condensed. The crude product is purified by flash chromatography on silica, eluting with a methanol/dichloromethane (5:95) mixture containing traces of aqueous ammonia. 0.70 g of the expected product is obtained in base form.

reactant | 4-(2-chloroethyl)-6-fluoro-1-methyl-2(1H)-quinolone | 5.8 mmol, 1.4 g | ClCCC1=CC(N(C2=CC=C(C=C12)F)C)=O | C12H11ClFNO
reactant | 4-(1-piperazinyl)thieno[3,2-c]pyridine | 5.9 mmol, 1.3 g | N1(CCNCC1)C1=NC=CC2=C1C=CS2 | C11H13N3S
reactant | sodium hydrogen carbonate | 5.95 mmol, 0.50 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6-fluoro-1-methyl-4-[2-[4-(thieno[3,2-c]pyridine-4-yl)-1-piperazinyl]ethyl]-2(1H)-quinolone hydrochloride | 0.70 g, Yield=27% | Cl.FC=1C=C2C(=CC(N(C2=CC1)C)=O)CCN1CCN(CC1)C1=NC=CC2=C1C=CS2 | InChI=1S/C23H23FN4OS.ClH/c1-26-20-3-2-17(24)15-19(20)16(14-22(26)29)5-8-27-9-11-28(12-10-27)23-18-6-13-30-21(18)4-7-25-23;/h2-4,6-7,13-15H,5,8-12H2,1H3;1H
